subckt oa311_x1 A1 A2 B1 B2 C X VDD VSS
OA311N30_PA0 (pmid1 A1 VDD VDD) pmos w=2u l=100n
OA311N30_PB0 (pmid2 A2 pmid1 VDD) pmos w=2u l=100n
OA311N30_PC0 (oa311_or_n B1 pmid2 VDD) pmos w=2u l=100n
OA311N30_NA0 (oa311_or_n A1 VSS VSS) nmos w=1u l=100n
OA311N30_NB0 (oa311_or_n A2 VSS VSS) nmos w=1u l=100n
OA311N30_NC0 (oa311_or_n B1 VSS VSS) nmos w=1u l=100n
OA311I30_P0 (oa311_or oa311_or_n VDD VDD) pmos w=2u l=100n
OA311I30_N0 (oa311_or oa311_or_n VSS VSS) nmos w=1u l=100n
OA311N3B0_PA0 (oa311_and_n oa311_or VDD VDD) pmos w=2u l=100n
OA311N3B0_PB0 (oa311_and_n B2 VDD VDD) pmos w=2u l=100n
OA311N3B0_PC0 (oa311_and_n C VDD VDD) pmos w=2u l=100n
OA311N3B0_NC0 (oa311_and_n C nmid2 VSS) nmos w=1u l=100n
OA311N3B0_NB0 (nmid2 B2 nmid1 VSS) nmos w=1u l=100n
OA311N3B0_NA0 (nmid1 oa311_or VSS VSS) nmos w=1u l=100n
OA311O0_P0 (X oa311_and_n VDD VDD) pmos w=2u l=100n
OA311O0_N0 (X oa311_and_n VSS VSS) nmos w=1u l=100n
ends oa311_x1
